US05639778
Step B: N-Indan-2-yl-N-propyl-propionamide (32, Chart 2).
Propionic acid chloride (2 mL, 2.1 g, 23 mmol) was added dropwise to a solution of indan-2-yl-propylamine (4.0 g, 23 mmol) and triethyl amine in dichloromethane (50 mL). The reaction mixture was stirred at room temperature for 2 hours. Aqueous (10%) sodium carbonate was added and the mixture was shaken. The organic phase was dried (magnesium sulfate), filtered and evaporated to yield 4.5 g (85%) of the title compound as an oil.:

reactant | Propionic acid chloride | 23 mmol, 2 mL, 2.1 g | C(CC)(=O)Cl | C3H5ClO
reactant | indan-2-yl-propylamine | 23 mmol, 4.0 g | C1C(CC2=CC=CC=C12)NCCC | C12H17N
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-Indan-2-yl-N-propyl-propionamide | 4.5 g, 85% | C1C(CC2=CC=CC=C12)N(C(CC)=O)CCC | C15H21NO
